US08058045B2
(R)-2-Chloro-N-(2,3-dihydroxypropyl)acetamide
Triethylamine (1.83 mL, 13.2 mmol) was added to a solution of (R)-3-amino-1,2-propanediol (1.00 g, 11.0 mmol) in a mixture CH3CN/MeOH (36 mL/16 mL) at −10° C. under nitrogen. Chloroacetyl chloride (0.98 ml, 12.0 mmol) was added dropwise at −10° C. over 30 min. The reaction mixture was allowed to reach room temperature and stirred for 16 h. The mixture was concentrated and purified by flash column chromatography on silica gel, eluting with methanol/ethyl acetate (8/92), to give the title compound as a white solid (1.43 g, 78%).

reactant | Triethylamine | 13.2 mmol, 1.83 mL | C(C)N(CC)CC | C6H15N
reactant | (R)-3-amino-1,2-propanediol | 11.0 mmol, 1.00 g | NC[C@H](CO)O | C3H9NO2
reactant | Chloroacetyl chloride | 12.0 mmol, 0.98 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | CH3CN MeOH | 36 mL | CC#N.CO
product | (R)-2-Chloro-N-(2,3-dihydroxypropyl)acetamide | 1.43 g, 78% | ClCC(=O)NC[C@H](CO)O | C5H10ClNO3
